US05332750
1.12 g of potassium tert-butylate are added to a solution of 1.5 g of 6-butyl-1,2-dihydro-2-oxopyridine ["IIIa"; m.p. 69°; obtainable by condensation of hexan-2-one with ethyl formate in toluene, in the presence of NaOCH3, to give 1-hydroxyhept-1-en-3-one, condensation with cyanoacetamide in water, in the presence of piperidine and acetic acid, at 90°, to give 6-butyl-3-cyano-1,2-dihydro-2-oxopyridine ("IIIb"; m.p. 110°), hydrolysis with 37% hydrochloric acid (boiling for 5 hours) to give 6-butyl-1,2-dihydro-2-oxopyridine-3-carboxylic acid (m.p. 149°) and decarboxylation at 180°-200°] in 25 ml of DMF. The mixture is stirred for 10 minutes, a solution of 2.72 g of 4'-bromomethyl-2-cyanobiphenyl ("IIa") in 15 ml of DMF is added dropwise over 30 minutes and the resulting mixture is stirred for 16 hours at 20°. It is evaporated, worked up in a conventional manner (pH 7; ethyl acetate) and purified by chromatography (silica gel; methylene chloride/methanol 98:2) to give 6-butyl-1-(2'-cyanobiphenyl-4-ylmethyl)-1,2-dihydro-2-oxopyridine; Rf 0.4; (M+H)+ 343. 6-Butyl-2-(2'-cyanobiphenyl-4-yl-methoxy)pyridine is obtained as a by-product.

reactant | 4'-bromomethyl-2-cyanobiphenyl | 2.72 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H10BrN
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 6-butyl-1-(2'-cyanobiphenyl-4-ylmethyl)-1,2-dihydro-2-oxopyridine | C(CCC)C1=CC=CC(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)=O | C23H22N2O
